US09233979B2
7-chloro-3-isopropyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridine (116 mg, 0.242 mmol), (R)-1-(1-phenylethyl)urea (60 mg, 0.363 mmol), cesium carbonate (237 mg, 0.726 mmol) and BrettPhos pre-catalyst (22 mg, 0.024 mmol) were charged in a 1 dram vial, evacuated and backfilled with nitrogen and taken in 1,4-dioxane (1.2 mL) before the mixture was heated reaction at 100° C. for 1 hour. The reaction mixture was diluted with DCM, washed with water, brine, dried with sodium sulfate and concentrated. Purification of the residue by flash column (0-75% EtOAc-hexanes) gave (R)-1-(3-isopropyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. for C39H38N6O [M+H]+ 607. found 607.

reactant | 7-chloro-3-isopropyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridine | 0.242 mmol, 116 mg | ClC1=NC=2CCN(C=3C2C(=C1)N(N3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C(C)C | C30H27ClN4
reactant | (R)-1-(1-phenylethyl)urea | 0.363 mmol, 60 mg | C1(=CC=CC=C1)[C@@H](C)NC(=O)N | C9H12N2O
reactant | cesium carbonate | 0.726 mmol, 237 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | BrettPhos | 0.024 mmol, 22 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-1-(3-isopropyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-(1-phenylethyl)urea | C(C)(C)N1C=2C=3C(=CC(=NC3CC1)NC(=O)N[C@H](C)C1=CC=CC=C1)N(N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C39H38N6O
